US08242133B2
To a mixture of 1.78 g of 3-tert-butoxycarbonylamino-N-[2-hydroxy-5-(trifluoromethyl)phenyl]isonicotinamide, 20 ml of tetrahydrofuran and 1.29 g of triphenylphosphine, 2.15 g of 40% toluene solution of diethyl azodicarboxylate was added dropwise at room temperature. The reaction mixture was stirred at room temperature for one hour and then stirred while heating at 50° C. for 30 minutes. The reaction mixture was cooled to room temperature, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.69 g of 2-(3-tert-butoxycarbonylamino pyridin-4-yl)-5-(trifluoromethyl)benzoxazole (hereinafter, referred to as “active compound 36”).

reactant | 3-tert-butoxycarbonylamino-N-[2-hydroxy-5-(trifluoromethyl)phenyl]isonicotinamide | 1.78 g | C(C)(C)(C)OC(=O)NC1=C(C(=O)NC2=C(C=CC(=C2)C(F)(F)F)O)C=CN=C1 | C18H18F3N3O4
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | triphenylphosphine | 1.29 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | toluene | 2.15 g | C1(=CC=CC=C1)C | C7H8
product | 2-(3-tert-butoxycarbonylamino pyridin-4-yl)-5-(trifluoromethyl)benzoxazole | 0.69 g | C(C)(C)(C)OC(=O)NC=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C18H16F3N3O3
